US05292740
By reacting 5-(2-methoxyphenoxy)-4,6-dichloropyrimidine with o-methoxyphenylsulfonamide and thereafter with ethylene glycol Na, there was obtained N-[6-(2-hydroxyethoxy)-5-(o-methoxyphenoxy)-4-pyrimidinyl]-o-methoxybenzenesulfonamide, m.p. 164°-165° C. (from ethyl acetate).

reactant | 5-(2-methoxyphenoxy)-4,6-dichloropyrimidine | COC1=C(OC=2C(=NC=NC2Cl)Cl)C=CC=C1 | C11H8Cl2N2O2
reactant | o-methoxyphenylsulfonamide | COC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[6-(2-hydroxyethoxy)-5-(o-methoxyphenoxy)-4-pyrimidinyl]-o-methoxybenzenesulfonamide | OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=C(C=CC=C1)OC)OC1=C(C=CC=C1)OC | C20H21N3O7S
